US08541594B2
To a solution of [2-(4-chlorophenyl)selenazol-5-yl]methanol (300 mg, 1.1 mmol) in dry tetrahydrofuran (5 ml) is added, in one portion, sodium hydride (60% dispersion in mineral oil, 44 mg, 1.1 mmol). The reaction mixture is stirred for 5 minutes at room temperature and 4-chlorobicyclo[3.2.1]oct-3-en-2-one (172 mg, 1.1 mmol) is added in one-portion. The reaction mixture is stirred at room temperature overnight. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 4-[2-(4-chlorophenyl)selenazol-5-ylmethoxy]bicyclo[3.2.1]oct-3-en-2-one (275 mg).

reactant | [2-(4-chlorophenyl)selenazol-5-yl]methanol | 1.1 mmol, 300 mg | ClC1=CC=C(C=C1)C=1[Se]C(=CN1)CO | C10H8ClNOSe
reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 4-chlorobicyclo[3.2.1]oct-3-en-2-one | 1.1 mmol, 172 mg | ClC1=CC(C2CCC1C2)=O | C8H9ClO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[2-(4-chlorophenyl)selenazol-5-ylmethoxy]bicyclo[3.2.1]oct-3-en-2-one | 275 mg | ClC1=CC=C(C=C1)C=1[Se]C(=CN1)COC1=CC(C2CCC1C2)=O | C18H16ClNO2Se
